US06515011B2
To a stirred solution of L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide (0.17 g, 0.45 mmol) in DMF (1 mL) was added benzilic acid (0.23 g, 0.51 mmol), N-methylmorpholine to pH=8 (as measured on wetted E. Merck pH indicator strips), and BOP reagent (0.31 g, 0.70 mmol). After 1 hour of mixing at room temperature, HPLC analysis indicated complete consumption of the starting amine. The mixture was filtered and purified on a preparative HPLC. Pure fractions were pooled and lyophilized to yield 1-(2,2-diphenyl-2-hydroxyethanoyl)-N-(2-tert-butyloxycarbonylaminomethyl-5-chlorobenzyl)-L-prolinamide as a solid (0.23 g, HPLC RT=3.75 min, method A; LC-MS m/z=578).

reactant | L-prolin-N-(2-(tert-butyloxycarbonylaminomethyl)-5-chlorobenzyl)amide | 0.45 mmol, 0.17 g | C(C)(C)(C)OC(=O)NCC1=C(CNC([C@H]2NCCC2)=O)C=C(C=C1)Cl | C18H26ClN3O3
reactant | benzilic acid | 0.51 mmol, 0.23 g | C(C(O)(C1=CC=CC=C1)C1=CC=CC=C1)(=O)O | C14H12O3
reactant | N-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | BOP reagent | 0.70 mmol, 0.31 g | CN(C)[P+](N(C)C)(N(C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 1-(2,2-diphenyl-2-hydroxyethanoyl)-N-(2-tert-butyloxycarbonylaminomethyl-5-chlorobenzyl)-L-prolinamide | C1(=CC=CC=C1)C(C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)CNC(=O)OC(C)(C)C)CCC1)(O)C1=CC=CC=C1 | C32H36ClN3O5
